US07396844B1
Synthesis of methyl 2-acetylamino-3-[2-[(2S)-2-(benzenesulfonylamino)-3-[4-(4-piperidyloxy)phenyl]propoxy]-4-cyanophenyl]acrylate
197 mg (0.26 mmol)) of 3-[(2S)-2-(benzenesulfonylamino)-3-[4-(1-benzyloxycarbonyl-4-piperidyloxy)phenyl]propoxy]-4-iodobenzonitrile and 74.4 mg (0.52 mmol) of methyl 2-acetaminoacrylate were dissolved in 6 ml of acetonitrile. 7.3 mg (0.03 mmol) of palladium (II) acetate, 55 mg (0.18 mmol) of tri-o-tolylphosphine and 96 mg (0.52 mmol) of tributylamine were added to the solution, and they were heated under reflux overnight. The solvent was distilled off and the residue was treated with ethyl acetate as the extractant in an ordinary manner to obtain the crude product, which was purified by the silica gel column chromatography to obtain the title compound.

reactant | 3-[(2S)-2-(benzenesulfonylamino)-3-[4-(1-benzyloxycarbonyl-4-piperidyloxy)phenyl]propoxy]-4-iodobenzonitrile | C1(=CC=CC=C1)S(=O)(=O)N[C@H](COC=1C=C(C#N)C=CC1I)CC1=CC=C(C=C1)OC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C35H34IN3O6S
reactant | methyl 2-acetaminoacrylate | 0.52 mmol, 74.4 mg | N(C(=O)C)C(C(=O)OC)=C | C6H9NO3
reactant | tri-o-tolylphosphine | 0.18 mmol, 55 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | tributylamine | 0.52 mmol, 96 mg | C(CCC)N(CCCC)CCCC | C12H27N
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
catalyst | palladium (II) acetate | 0.03 mmol, 7.3 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl 2-acetylamino-3-[2-[(2S)-2-(benzenesulfonylamino)-3-[4-(4-piperidyloxy)phenyl]propoxy]-4-cyanophenyl]acrylate | C(C)(=O)NC(C(=O)OC)=CC1=C(C=C(C=C1)C#N)OC[C@H](CC1=CC=C(C=C1)OC1CCNCC1)NS(=O)(=O)C1=CC=CC=C1 | C33H36N4O7S
